US08242145B2
Step 1: {3-[4-Bromo-2-(2-oxo-imidazolidin-1-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 116, Step 1, using the following starting materials: [3-(4-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]acetic acid ethyl ester and 2-imidazolidone.

reactant | [3-(4-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CBr)=O | C18H18Br2O4
reactant | 2-imidazolidone | N1C(NCC1)=O | C3H6N2O
product | {3-[4-Bromo-2-(2-oxo-imidazolidin-1-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN1C(NCC1)=O)=O | C21H23BrN2O5
